US05338739
2-{2-[2-(3-Hydroxyphenyl)-1-pyrrolidinyl]ethyl}-1H-isoindole-1,3(2H)dione
To a solution of 2-{2-[2-(3-methoxyphenyl)-1-pyrrolidinyl]ethyl}-1H-isoindole-1,3(2H)dione (1.0 g), in dry chloroform (40 ml) was added boron tribromide (99%, 1.3 ml) at -10° C., under nitrogen. The reaction mixture was stirred for 10 mins in a cooling bath and 20 mins at ambient temperature. Crushed ice was added followed by 5:1-chloroform/2-propanol (10 ml). The layers were separated, and the aqueous phase was extracted with 5:1-chloroform/2-propanol (2 times). The combined organic extracts were washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated to give 0.89 g (93%) of product, mp 172°-175° C.

reactant | 2-{2-[2-(3-methoxyphenyl)-1-pyrrolidinyl]ethyl}-1H-isoindole-1,3(2H)dione | 1.0 g | COC=1C=C(C=CC1)C1N(CCC1)CCN1C(C2=CC=CC=C2C1=O)=O | C21H22N2O3
reactant | boron tribromide | 1.3 ml | B(Br)(Br)Br | BBr3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-{2-[2-(3-Hydroxyphenyl)-1-pyrrolidinyl]ethyl}-1H-isoindole-1,3(2H)dione | 0.89 g, 93% | OC=1C=C(C=CC1)C1N(CCC1)CCN1C(C2=CC=CC=C2C1=O)=O | C20H20N2O3
